US07176224B2
2-(2-Methoxy-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid;
: The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethyl ester. 1H NMR (400 MHz, CDCl3): δ 8.05 (d, 2H, J=7.82 Hz), 7.86 (d, 2H, J=8.21 Hz), 7.68 (d, 2H, J=7.82 Hz), 7.45 (t, 1H, J=7.65 Hz), 7.41–7.40 (m, 1H), 7.31–7.30 (m, 1H), 7.19(d, 1H, J=8.40 Hz), 7.10–7.04 (m, 2H), 6.88–6.79 (m, 2H), 6.61 (dd, 1H, J=8.40 Hz, 1.65 Hz), 4.22 (t, 2H, J=5.87 Hz), 3.82 (s, 3H), 3.30 (d, 1H, J=14.08 Hz), 3.10–3.03 (m, 3H), 2.43 (s, 3H), 1.30 (s, 3H). MS [ES+] m/z exact mass calcd for C33H32NO6S 570.1950, found 570.1958.

reactant | 3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethyl ester | CC1=C(N=C(O1)C1=CC(=CC=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
product | 2-(2-Methoxy-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | COC1=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC(=CC=C2)C=2SC=CC2)C)C=CC=C1 | C33H31NO6S
